US06967197B2
A solution of diethylamine hydrochloride (1 g) in sulfuryl chloride (10 ml) was heated at 50° C. for 4 hours. The solution was allowed to cool to ambient temperature and sulfuryl cloride was evaporated in vacuo. To the residue were added ethyl acetate and water. The organic layer was washed with brine, dried over anhydrous magnesium sulfate and concentrated in vacuo to give diethylsulfamoyl chloride (720 mg) as a colorless oil.

reactant | diethylamine hydrochloride | 1 g | Cl.C(C)NCC
reactant | sulfuryl chloride | 10 ml | S(=O)(=O)(Cl)Cl | Cl2O2S
product | diethylsulfamoyl chloride | 720 mg | C(C)N(S(=O)(=O)Cl)CC | C4H10ClNO2S
